US05310811
Preparation of 1,4.benzene dimethacrylate
Into a one liter three neck flask which was equipped with a stirrer, water condenser, thermometer and addition funnel was added 55g hydroquinone (1,4-benzenediol), 94.5g methacrylic acid (MAA), 100 ml tetrahydrofuran and 350ml toluene. Then 244 g of triethylamine was added with cooling. Then 121 g phosphorus oxychloride (POCl3) was added over a 20 minute period between 22° and 55° C. The flask contents were further reacted at 72° C. for two hours and then filtered. The filtrate was distilled to remove the volatiles, thus leaving 75 g of an amber crystalline semi solid. It was dissolved in 250 ml of methanol and crystallized in dry ice to give a white powder with a melting point of 87° to 89° C. Gel Permeation Chromatography (GPC) and NMR confirmed that the product was the 1,4-benzene dimethacrylate.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | methacrylic acid | 94.5g | C(C(=C)C)(=O)O | C4H6O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | phosphorus oxychloride | 121 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methanol | 250 ml | CO | CH4O
solvent | triethylamine | 244 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 350ml | C1(=CC=CC=C1)C | C7H8
product | benzene dimethacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.C1=CC=CC=C1 | InChI=1S/C6H6.2C4H6O2/c1-2-4-6-5-3-1;2*1-3(2)4(5)6/h1-6H;2*1H2,2H3,(H,5,6)
